US09172045B2
In a stream of nitrogen, a 100 mL three-necked flask was charged with 15.0 g (61.1 mmol) of N-phenyl-N-biphenylylamine. 100 mL of dimethylformamide and 10.8 g (61.1 mmol) of N-bromosuccinimide were added to the content, and the mixture was stirred at room temperature for 2 hours. To the thus-obtained reaction mixture, 10 mL of toluene and then 10 mL of pure water were added, and the reaction mixture was separated into an organic phase and an aqueous phase. The organic phase was washed with pure water and then with an aqueous saturated sodium chloride solution. The washed organic phase was dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The thus-obtained solid was recrystallized from toluene to give 13.4 g (41.4 mmol) of N-(4-bromophenyl)-N-biphenylylamine as a grey powder (yield: 67%).

reactant | N-phenyl-N-biphenylylamine | 61.1 mmol, 15.0 g | C1(=CC=CC=C1)NC1=C(C=CC=C1)C1=CC=CC=C1 | C18H15N
reactant | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | N-bromosuccinimide | 61.1 mmol, 10.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 mL | O | H2O
product | N-(4-bromophenyl)-N-biphenylylamine | 41.4 mmol, 13.4 g, yield: 67% | BrC1=CC=C(C=C1)NC1=C(C=CC=C1)C1=CC=CC=C1 | C18H14BrN
